US05776963
To a stirred mixture of cyanogen bromide (5.3 g, 0.05 mol), K2 CO3 (7.1 g) and dimethylsulfoxide (40 ml) was added, dropwise, 3-(4-methyl-1-piperazinyl)-1H-indazole (1 1.0 g 0.051 mol) dissolved in dimethylsulfoxide (60 ml). The reaction was stirred at ambient temperature for 1 hour, and then it was poured into water. The aqueous suspension was extracted with ethyl acetate, the ethyl acetate was washed (H2O), dried (MgSO4), and concentrated to afford 7.8 g (67%) of a ye llow solid. This sample was combined with another and recrystallized twice from toluene to afford analytically pure 4-(1H-indazol-3-yl)-1-piperazinecarbonitrile as a white solid, m.p.=12°-122° C.

reactant | cyanogen bromide | 0.05 mol, 5.3 g | N#CBr | CBrN
reactant | 3-(4-methyl-1-piperazinyl)-1H-indazole | 0.051 mol, 1.0 g | CN1CCN(CC1)C1=NNC2=CC=CC=C12 | C12H16N4
reactant | water | O | H2O
solvent | dimethylsulfoxide | 60 ml | CS(=O)C | C2H6OS
solvent | dimethylsulfoxide | 40 ml | CS(=O)C | C2H6OS
product | 4-(1H-indazol-3-yl)-1-piperazinecarbonitrile | N1N=C(C2=CC=CC=C12)N1CCN(CC1)C#N | C12H13N5
